US08039450B2
A solution of 6-bromo-2-fluoro-3-methoxybenzaldehyde (2 g, 8.58 mmol) in dichloromethane (43 mL) under a nitrogen balloon was cooled to −78° C. in an acetone dry ice bath. 1 M boron tribromide solution in dichloromethane (9.5 mL) was added drop wise under nitrogen balloon. The reaction was stirred at room temperature overnight. The reaction was then put on an ice water bath and the excess boron tribromide was quenched with ice chips. Water was added and the solution was extracted with dichloromethane. The aqueous layer was extracted two times with dichloromethane. The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure to give 6-bromo-2-fluoro-3-hydroxybenzaldehyde (1.61 g, 86% yield).

reactant | 6-bromo-2-fluoro-3-methoxybenzaldehyde | 8.58 mmol, 2 g | BrC1=CC=C(C(=C1C=O)F)OC | C8H6BrFO2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 43 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 9.5 mL | ClCCl | CH2Cl2
product | 6-bromo-2-fluoro-3-hydroxybenzaldehyde | 1.61 g, 86% yield | BrC1=CC=C(C(=C1C=O)F)O | C7H4BrFO2
